US06326386B1
3-[2-(tert-Butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid
To a stirred solution of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid methyl ester (0.58 g) in a mixture of 1,4-dioxane (5 ml) and water (5 ml) was added 2M sodium hydroxide solution (0.72 ml). The reaction mixture was stirred at room temperature for 20 h, acidified by the addition of 2M hydrochloric acid (0.75 ml) and then concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water, the aqueous layer removed and the organic phase washed with further water and dried with brine and over sodium sulphate. Concentration of the organic phase under reduced pressure gave the title compound as a yellow solid (0.32 g).

reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid methyl ester | 0.58 g | COC(C1=CC(=CC(=C1)Cl)OCCN(C1=CC=NC=C1)C(=O)OC(C)(C)C)=O | C20H23ClN2O5
reactant | sodium hydroxide | 2M, 0.72 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M, 0.75 ml | Cl | ClH
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | 3-[2-(tert-Butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 0.32 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
